US06632813B1
6-Chloro-3,4-dihydro-7-(4-(((4-ethoxycarbonylphenyl)carbamoyloxy)methyl)imidazole-1-yl)-3-oxoquinoxaline-2-carboxylic Acid
To a solution of ethyl 6-chloro-3-ethoxy-7-(4-(((4-ethoxycarbonylphenyl)carbamoyloxy)methyl)imidazole-1-yl)quinoxaline-2-carboxylate (64.0 mg, 113 μmol) in acetic acid (3 ml) was added 47% hydrobromic acid (0.3 ml), and the mixture was stirred for 3 hours at room temperature. After allowed to stand overnight, the mixture was stirred for 1 hour at 40° C. After cooling, ethanol was added to the residue obtained by concentrating the reaction mixture under reduced pressure. The precipitated crystals were collected by filtration and air-dried, thereby obtaining 18.8 mg of title compound as brown powder. The residue obtained by concentrating the filtrate under reduced pressure was washed with water and air-dried, thereby obtaining additional 37.4 mg. Total yield 56.2 mg. Yield 97%.

reactant | ethyl 6-chloro-3-ethoxy-7-(4-(((4-ethoxycarbonylphenyl)carbamoyloxy)methyl)imidazole-1-yl)quinoxaline-2-carboxylate | 113 μmol, 64.0 mg | ClC=1C=C2N=C(C(=NC2=CC1N1C=NC(=C1)COC(NC1=CC=C(C=C1)C(=O)OCC)=O)C(=O)OCC)OCC | C27H26ClN5O7
reactant | hydrobromic acid | 0.3 ml | Br | BrH
reactant | ethanol | C(C)O | C2H6O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 6-Chloro-3,4-dihydro-7-(4-(((4-ethoxycarbonylphenyl)carbamoyloxy)methyl)imidazole-1-yl)-3-oxoquinoxaline-2-carboxylic Acid | 18.8 mg, Yield 97% | ClC=1C=C2NC(C(=NC2=CC1N1C=NC(=C1)COC(NC1=CC=C(C=C1)C(=O)OCC)=O)C(=O)O)=O | C23H18ClN5O7
